US07071201B2
(85-1-1) Ethyl 4-oxo-3-piperidinecarboxylate hydrochloride
10% palladium/active carbon (2 g) was added to a solution of ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride (30 g) in methanol (500 ml) and the resultant mixture was stirred at room temperature under hydrogen atmosphere for a day. After filtering the reaction mixture through celite, the filtrate was concentrated under reduced pressure to give the title compound (20.0 g) as a white powder (yield: 97%).

reactant | ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride | 30 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium | 2 g | [Pd] | Pd
product | Ethyl 4-oxo-3-piperidinecarboxylate hydrochloride | 20.0 g, yield: 97% | Cl.O=C1C(CNCC1)C(=O)OCC | InChI=1S/C8H13NO3.ClH/c1-2-12-8(11)6-5-9-4-3-7(6)10;/h6,9H,2-5H2,1H3;1H
